US05342846
3-(1,2,3-Triazol-1-yl) azetidine hydrochloride
To a mixture of 0.88 g (3.03 mmol) of N-benzhydryl-3-(1,2,3-triazol-1-yl) azetidine in 25 ml of 98% ethanol was added 3 ml of 1N hydrochloric acid. To this solution was added 0.3 g of Pd/C (10%) and the mixture was then hydrogenated at 50 psi for 18 hr. After filtration of the Pd/C the solvent was removed under reduced pressure, and the residue was crystallized from methanol-ether to yield 0.25 g (51%) of the desired product m.p. 158°-160° C. 1H NMR (D2O) 6 8.16 (S, 1H), 7.92 (S, 1H), 5.95-5.75 (m, 1H), 4.97-4.65 (m, 4H).

reactant | N-benzhydryl-3-(1,2,3-triazol-1-yl) azetidine | 3.03 mmol, 0.88 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1N=NC=C1 | C18H18N4
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 3-(1,2,3-Triazol-1-yl) azetidine hydrochloride | 0.25 g, 51% | Cl.N1(N=NC=C1)C1CNC1 | InChI=1S/C5H8N4.ClH/c1-2-9(8-7-1)5-3-6-4-5;/h1-2,5-6H,3-4H2;1H
